US06608203B2
2,2,2-Trifluoro-1-(6-methoxy-1-thiophen-2-yl-3,4-dihydro-1H-isoquinolin-2-yl)ethanone
Trifluoroacetic anhydride (0.70 ml, 4.97 mmol) was added to a solution of 6-methoxy-1-thiophen-2-yl-1,2,3,4-tetrahydroisoquinoline (1.220 g, 4.97 mmol) and Et3N (1.39 ml, 9.94 mmol) in anhydrous CH2Cl2 (40 ml) at 0° C. under N2. The resulting solution was warmed to rt and stirred at rt for 68 hr, washed with 1M HCl (20 ml) followed by sat. NaHCO3 solution (20 ml), dried over MgSO4, then concentrated in vacuo to give 1.863 g of red oil. Purification by flash chromatography, eluting with hexane:EtOAc (19:1) gave 1.340 g (79% yield) of yellow oil.

reactant | Trifluoroacetic anhydride | 4.97 mmol, 0.70 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6-methoxy-1-thiophen-2-yl-1,2,3,4-tetrahydroisoquinoline | 4.97 mmol, 1.220 g | COC=1C=C2CCNC(C2=CC1)C=1SC=CC1 | C14H15NOS
reactant | Et3N | 9.94 mmol, 1.39 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(6-methoxy-1-thiophen-2-yl-3,4-dihydro-1H-isoquinolin-2-yl)ethanone | 1.863 g | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C=1SC=CC1)(F)F | C16H14F3NO2S
